US08202873B2
Dissolve ethyl 4-acetyl-5-oxohexanoate (2.00 g, 9.99 mmol) in acetic acid (21 mL). Add methyl hydrazine (589 μL, 10.99 mmol) and stir at room temperature for 18 hr. Concentrate and dissolve residue in ethyl acetate. Wash ethyl acetate layer with saturated aqueous sodium bicarbonate solution. Extract aqueous layer twice with ethyl acetate, dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 100% ethyl acetate:hexanes) to give 3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-propionic acid ethyl ester (1.95 g, 93%). MS (ES): m/z=211 [M+H]+.

reactant | ethyl 4-acetyl-5-oxohexanoate | 9.99 mmol, 2.00 g | C(C)(=O)C(CCC(=O)OCC)C(C)=O | C10H16O4
reactant | methyl hydrazine | 10.99 mmol, 589 μL | CNN | CH6N2
solvent | acetic acid | 21 mL | C(C)(=O)O | C2H4O2
product | 3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-propionic acid ethyl ester | 1.95 g, 93% | C(C)OC(CCC=1C(=NN(C1C)C)C)=O | C11H18N2O2
